US05780465
3-(4-Fluorophenyl)propanoic acid was prepared by procedures analogous to those of Example 6 from 4-fluorobenzaldehyde. Oxalyl chloride (25 mL, 36.4 g, 0.287 mol) was added to 20.0 g (0.119 mol) of this acid. The resulting slurry was heated at reflux with stirring for 1 hour. The solution obtained was cooled and the volatile components were removed by evaporation under reduced pressure. Dichloroethane was added and removed by evaporation under reduced pressure. The residue was dissolved in 75 mL of dichloroethane and the solution was added with stirring to a slurry of 16 g of anhydrous aluminum chloride in 75 mL of dichloroethane. The mixture evolved hydrogen chloride and exothermed raising the temperature to about 40° C. It was then heated at reflux with stirring for about 45 min after which it was allowed to cool overnight. Concentrated aqueous hydrochloric acid (100 mL) was then added with stirring, which resulted in a large exotherm. The resulting mixture was diluted with 100 mL of dichloromethane and 250 mL of water and the organic phase was recovered by means of a separatory funnel, washed with 300 mL of 0.5N aqueous sodium hydroxide, dried over sodium sulfate, and concentrated by evaporation under reduced pressure. The residue, which amounted to 16.3 g of cream colored solid melting at 57°-60° C., was the title compound.

reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | Oxalyl chloride | 0.287 mol, 25 mL, 36.4 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | water | 250 mL | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-(4-Fluorophenyl)propanoic acid | FC1=CC=C(C=C1)CCC(=O)O | C9H9FO2
